US08957089B2
43.2 1-(4-Chloro-phenyl)-3-oxo-cyclobutanecarbonitrile
1-(4-Chloro-phenyl)-3-methoxy-cyclobut-2-enecarbonitrile (8.80 g, 40.1 mmol), 4-toluene sulfonic acid (2.30 g, 12.1 mmol), and 2 N HCl were dissolved in acetone/water 100:10 (110 ml) and stirred for 10 h under reflux. The reaction mixture was alkalized with aqueous NaOH and extracted with ethyl acetate. The combined organic layers were washed with water and subsequently with saturated sodium chloride solution and dried with sodium sulphate. The product was obtained as an orange oil (7.40 g, 36.0 mmol) that was sufficiently pure for the next step.

reactant | 1-(4-Chloro-phenyl)-3-methoxy-cyclobut-2-enecarbonitrile | 40.1 mmol, 8.80 g | ClC1=CC=C(C=C1)C1(C=C(C1)OC)C#N | C12H10ClNO
reactant | 4-toluene sulfonic acid | 12.1 mmol, 2.30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | HCl | 2 N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | acetone water | 110 ml | CC(=O)C.O
product | 1-(4-Chloro-phenyl)-3-oxo-cyclobutanecarbonitrile | 36.0 mmol, 7.40 g | ClC1=CC=C(C=C1)C1(CC(C1)=O)C#N | C11H8ClNO
